US04866196
(±)-1-(4-methoxy-3-methylphenyl)-2-aminopropane and benzenesulfonyl chloride are treated in the same manner as described in Example 61-(1) to give (±)-1-(4-methoxy-3-methylphenyl)-2-benzenesulfonylaminopropane.

reactant | (±)-1-(4-methoxy-3-methylphenyl)-2-aminopropane | COC1=C(C=C(C=C1)CC(C)N)C | C11H17NO
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | (±)-1-(4-methoxy-3-methylphenyl)-2-benzenesulfonylaminopropane | COC1=C(C=C(C=C1)CC(C)NS(=O)(=O)C1=CC=CC=C1)C | C17H21NO3S
